US07084154B2
A solution of cis-4-(3-chlorophenyl)-but-3-enylamine (1.2 g) in 20 mL methanol was added to platinum(IV) oxide monohydrate (0.12 g). The mixture was stirred under 1 atm of hydrogen for 16 h. The mixture was filtered through celite, and the methanol was removed in vacuo to yield 0.9 g of 4-(3-chlorophenyl)-butylamine.

reactant | cis-4-(3-chlorophenyl)-but-3-enylamine | 1.2 g | ClC=1C=C(C=CC1)\C=C/CCN | C10H12ClN
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | platinum(IV) oxide monohydrate | 0.12 g | O.[Pt](=O)=O
product | 4-(3-chlorophenyl)-butylamine | 0.9 g | ClC=1C=C(C=CC1)CCCCN | C10H14ClN
